US07153868B2
5-Bromothiophene-2-sulfonic acid{3-[4-(2-ethyl-5-methyl-2H-pyrazol-3-yl)piperidin-1-yl]-1-phenylpropyl}amide hydrochloride
(5-Bromothien-2-yl)sulfonylchloride (34 mg, 0.13 mmol) was added dropwise to a stirred solution of 3-[4-(2-ethyl-5-methyl-2H-pyrazol-3-yl)-piperidin-1-yl]-1-phenyl-propylamine (see Example 8 (48 mg, 0.15 mmol) and Et3N (20 μL, 0.14 mmol) in CH2Cl2 (2 mL) at RT under N2 and the mixture was stirred for 3 hours. The solution was diluted with CH2Cl2 (20 mL) and then washed with NaHCO3 solution (20 mL), and the organic layer separated. The aqueous phase was re-extracted with CH2Cl2 (20 mL) and the combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by column chromatography on silica using 5% MeOH/CH2Cl2 as eluent. The fractions containing the desired product were combined and concentrated under reduced pressure. The residue was taken up in Et2O (5 mL) and a solution of HCl in Et2O was added. The resultant solid was purified by trituration to isolate the title compound (8 mg, 10%) as a colourless solid. 1H NMR (d6-DMSO, 400 MHz) δ 10.32 (1H, s), 8.85 (1H, d, J=9.1 Hz), 7.24–7.19 (5H, m), 7.09 (1H, d, J=4.0 Hz), 7.06 (1H, d, J=4.0 Hz), 5.80 (1H, s), 4.46–4.40 (1H, m), 3.99 (2H, q, J=7.2 Hz), 3.51–3.41 (2H, m), 3.15–2.87 (5H, m), 2.42–2.00 (5H, m), 1.98–1.80 (4H, m), 1.28 (3H, t, J=7.2 Hz). MS (ES+) C24H31BrN4O2S2 requires: 550, found: 551/553 (1:1, M+H+).

reactant | (5-Bromothien-2-yl)sulfonylchloride | 0.13 mmol, 34 mg | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | 3-[4-(2-ethyl-5-methyl-2H-pyrazol-3-yl)-piperidin-1-yl]-1-phenyl-propylamine | C(C)N1N=C(C=C1C1CCN(CC1)CCC(C1=CC=CC=C1)N)C | C20H30N4
reactant | Et3N | 0.14 mmol, 20 μL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromothiophene-2-sulfonic acid{3-[4-(2-ethyl-5-methyl-2H-pyrazol-3-yl)piperidin-1-yl]-1-phenylpropyl}amide hydrochloride | 8 mg, 10% | Cl.C(C)N1N=C(C=C1C1CCN(CC1)CCC(C1=CC=CC=C1)NS(=O)(=O)C=1SC(=CC1)Br)C | InChI=1S/C24H31BrN4O2S2.ClH/c1-3-29-22(17-18(2)26-29)20-11-14-28(15-12-20)16-13-21(19-7-5-4-6-8-19)27-33(30,31)24-10-9-23(25)32-24;/h4-10,17,20-21,27H,3,11-16H2,1-2H3;1H
